US06281227B1
C. (2-Oxo-1-prop-2-ynyl-pyrrolidin-3-(S)-yl)-carbamic acid benzyl ester
Sodium hydride (1.11 g, 27.7 mmol, 60% mineral oil dispersion) is added to a solution of [2-oxopyrrolidin-3-(S)-yl]-carbamic acid benzyl ester (6.20 g, 26.4 mmol) in THF/DMF (88 mL, 3/1 v/v) at 0° C. The mixture is stirred for 5 min. then propargyl bromide (4.4 mL, 49.4 mmol) is added dropwise. The resulting solution is stirred for 1 h then brought to room temperature and stirred for 2 h. The reaction is quenched with saturated ammonium chloride solution then diluted with ethyl acetate and washed with water (×4) and brine. The organic layer is dried over MgSO4, filtered and concentrated to dryness. The residue is purified by column chromatography eluting with 5% MeOH/CH2Cl2 to give the product (7.20 g, 26.4 mmol) as a white solid.

reactant | Sodium hydride | 27.7 mmol, 1.11 g | [H-].[Na+]
reactant | [2-oxopyrrolidin-3-(S)-yl]-carbamic acid benzyl ester | 26.4 mmol, 6.20 g | C(C1=CC=CC=C1)OC(N[C@@H]1C(NCC1)=O)=O | C12H14N2O3
reactant | propargyl bromide | 49.4 mmol, 4.4 mL | C(C#C)Br | C3H3Br
solvent | THF DMF | 88 mL | C1CCOC1.CN(C)C=O
product | (2-Oxo-1-prop-2-ynyl-pyrrolidin-3-(S)-yl)-carbamic acid benzyl ester | 26.4 mmol, 7.20 g | C(C1=CC=CC=C1)OC(N[C@@H]1C(N(CC1)CC#C)=O)=O | C15H16N2O3
